2194-11-02 16:14:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on norepi this AM
   24 Hour Events:
 MULTI LUMEN - START [**2194-11-1**] 11:36 PM
 ARTERIAL LINE - START [**2194-11-2**] 12:56 AM
 BLOOD CULTURED - At [**2194-11-2**] 01:00 AM
 URINE CULTURE - At [**2194-11-2**] 01:51 AM
 NASAL SWAB - At [**2194-11-2**] 01:51 AM
 STOOL CULTURE - At [**2194-11-2**] 02:51 AM
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2194-11-2**] 12:00 AM
   Vancomycin - [**2194-11-2**] 02:00 AM
   Metronidazole - [**2194-11-2**] 08:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2194-11-2**] 08:00 AM
   Morphine Sulfate - [**2194-11-2**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: LLE pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-11-2**] 04:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.5
C (95.9
   HR: 90 (82 - 101) bpm
   BP: 110/() {110/() - 110/()} mmHg
   RR: 28 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 79 kg
           Total In:
                                                                     47 mL
                                                                  4,029 mL
   PO:
           720 mL
   TF:
   IVF:
                                                                     47 mL
                                                                  3,038 mL
   Blood products:
   271 mL
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
   120 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                     47 mL
                                                                  3,709 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.46/20/77.[**Numeric Identifier 253**]/15/-6
   Physical Examination
   General Appearance: No acute distress, Thin, frail
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: mild epigastric, no guarding
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   67 K/uL
   194 mg/dL
   2.5 mg/dL
   15 mEq/L
   4.4 mEq/L
   83 mg/dL
   103 mEq/L
   133 mEq/L
   23.4 %
   42.6 K/uL
        [image002.jpg]
                            [**2194-11-2**]  12:02 AM
                            [**2194-11-2**]  12:31 AM
                            [**2194-11-2**]  05:54 AM
                            [**2194-11-2**]  06:18 AM
                            [**2194-11-2**]  12:26 PM
                            [**2194-11-2**]  12:47 PM
   WBC
   42.8
   31.4
   42.6
   Hct
   30.9
   22.8
   23.4
   Plt
   32
   65
   67
   Cr
   2.5
   2.3
   2.5
   TropT
   0.04
   0.05
   TCO2
   12
   14
   15
   Glucose
   95
   147
   194
   Other labs: PT / PTT / INR:16.4/41.4/1.5, CK / CKMB /
   Troponin-T:168/6/0.05, ALT / AST:31/28, Alk Phos / T Bili:70/1.2,
   Differential-Neuts:89.0 %, Band:8.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0
   %, Lactic Acid:2.9 mmol/L, LDH:354 IU/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 ACUTE PAIN
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Mr. [**Known lastname **] is a 81 yo man with a constellation of worsening medical
   problems.  [**Name (NI) **] has a new diagnosis of HIV, has C.diff with leukocytosis
   in 40s, adrenal insufficiency, MDS, worsening acidosis and renal
   failure due to ATN.  He also has L leg pain and erythema.
   HIV: Off HAART
   Adrenal insufficiency: Cont steroids
   C. Diff: On Flagyl
   ?Septic shock: vanc/cefepime/flagyl
   Acidosis/Renal Failure: Appreciate renal input.  Unfortunately, his
   prognosis for renal recovery is poor.
   His overall prognosis is grim given his constellation of problems,
   particularly the worsening renal failure.  Will get a torso/leg CT,
   obtain OSH films.
   Pt is criticall ill.  Time spent: 40 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-11-1**] 11:36 PM
   Arterial Line - [**2194-11-2**] 12:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2194-11-04 09:04:00 Physician Attending Progress Note
Chief Complaint: Shock, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Minimal urine output overnight
   24 Hour Events:
   This AM hypoxic to mid to high 80s on NRB after fluid bolus this AM -
   started on CPAP 1.0 FIO2 with increase in sats to 100%.  Minimal
   respons to Lasix
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-11-2**] 02:00 AM
   Metronidazole - [**2194-11-4**] 12:00 AM
   Cefipime - [**2194-11-4**] 12:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2194-11-3**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-11-4**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 76 (70 - 83) bpm
   BP: 110/() {0/() - 0/()} mmHg
   RR: 22 (13 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 79 kg
   CVP: 4 (-9 - 353)mmHg
   Total In:
                                                                  1,359 mL
                                                                    745 mL
   PO:
   TF:
   IVF:
                                                                    659 mL
                                                                    745 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    120 mL
                                                                     40 mL
   Urine:
                                                                    120 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,239 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///12/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   27 K/uL
   111 mg/dL
   2.8 mg/dL
   12 mEq/L
   5.0 mEq/L
   89 mg/dL
   102 mEq/L
   130 mEq/L
   26.3 %
   15.6 K/uL
        [image002.jpg]
                            [**2194-11-2**]  05:54 AM
                            [**2194-11-2**]  06:18 AM
                            [**2194-11-2**]  12:26 PM
                            [**2194-11-2**]  12:47 PM
                            [**2194-11-2**]  04:40 PM
                            [**2194-11-2**]  05:06 PM
                            [**2194-11-3**]  04:28 AM
                            [**2194-11-3**]  11:34 AM
                            [**2194-11-3**]  05:55 PM
                            [**2194-11-4**]  04:35 AM
   WBC
   31.4
   42.6
   45.4
   20.4
   15.6
   Hct
   22.8
   23.4
   23.9
   28.8
   30.5
   29.2
   26.3
   Plt
   65
   67
   64
   55
   37
   27
   Cr
   2.3
   2.5
   2.5
   2.7
   2.6
   2.8
   TropT
   0.04
   0.05
   0.05
   TCO2
   14
   15
   16
   Glucose
   147
   194
   176
   110
   108
   111
   Other labs: PT / PTT / INR:22.0/150.0/2.1, CK / CKMB /
   Troponin-T:148/6/0.05, ALT / AST:31/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:72/41, Differential-Neuts:89.0 %, Band:8.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:567 mg/dL, Lactic
   Acid:1.4 mmol/L, LDH:450 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ACUTE PAIN
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   81 yo man with new diagnosis of HIV, C.Diff, LLE DVT, hypotension.  Now
   with worsening renal failure and acidosis, hypoxemia in setting of
   anuria.
   1. Hypotension/Septic shock: WBC trending down.  Off pressors.  He does
   have a RLL infiltrate now as well.  On vanco and cefepime
   2. Hypoxemic Rspiratory Failure: On CPAP at moment - unfortunately,
   unable to diurese effectively given renal failure.  Recheck TTE.
   Pneumionia may be playing a role as well.
   3. C.Diff: po vanc/iv flagyl.  Recheck [**Doctor Last Name **] for c. diff
   4. LLE DVT: With further platelet drop, will switch to argatroban and
   check HIT
   5. HIV: Off ARVs for now
   6. Liver lesion: Wedge shaped - possible infarct but would be rare for
   liver.  Could also be some metastatic lesion.  RUQ ultrasound today
   7. Renal failure: Continued minimal urine output.
   8. Pancreatitis: Amylase and lipase down.  Cont to follow.
   9. Anemia: Continues to drop Hct - Guaiac pos stools.  s/p transfusion
   2 units pRBCs.
   Family meeting today.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-11-1**] 11:36 PM
   Arterial Line - [**2194-11-2**] 12:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family meeting today
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with Mr. [**Known lastname **]
s son this afternoon.  We discussed that he has many
   active medical problems at the moment and that it is quite unlikely
   that he will be able to recover from them.  Most immediate is his
   developing respiratory failure and renal failure.  He was understanding
   of the situation
 for now, he wants to pursue aggressive measures.
   Unfortunately, Mr. [**Known lastname **]
s mental status has deteriorated today and is
   able to participate in the conversation.  We will continue to update
   the family on progress.  For now, Mr. [**Known lastname **] remains full code.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2194-11-4**] 17:47 ------

2194-11-05 11:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Having increased Cheynes-[**Doctor Last Name **] breathing pattern this AM with long
   periods of apnea.  Back on NIPPV this AM.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2194-11-4**] 08:01 AM
   Met with son yesterday as documented in my note
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-11-4**] 10:00 AM
   Cefipime - [**2194-11-5**] 01:48 AM
   Metronidazole - [**2194-11-5**] 07:47 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Argatroban - 0.13 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2194-11-4**] 04:45 PM
   Morphine Sulfate - [**2194-11-5**] 10:30 AM
   Other medications:
   per ICU residen tnote
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: Dyspnea, Cheynes_Stokes respirations
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-11-5**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 81 (73 - 95) bpm
   BP: 110/() {0/() - 0/()} mmHg
   RR: 19 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 79 kg
   Height: 68 Inch
   CVP: 5 (2 - 12)mmHg
   Total In:
                                                                  1,163 mL
                                                                    783 mL
   PO:
   TF:
   IVF:
                                                                  1,163 mL
                                                                    783 mL
   Blood products:
   Total out:
                                                                    126 mL
                                                                     37 mL
   Urine:
                                                                    116 mL
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,037 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 573 (323 - 893) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.34/19/136/8/-12
   Ve: 19.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Moaning in mild resp distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   31 K/uL
   147 mg/dL
   3.0 mg/dL
   8 mEq/L
   5.2 mEq/L
   91 mg/dL
   104 mEq/L
   134 mEq/L
   29.2 %
   13.4 K/uL
        [image002.jpg]
                            [**2194-11-4**]  09:26 AM
                            [**2194-11-4**]  04:00 PM
                            [**2194-11-4**]  04:23 PM
                            [**2194-11-4**]  07:36 PM
                            [**2194-11-4**]  07:53 PM
                            [**2194-11-4**]  09:56 PM
                            [**2194-11-5**]  03:27 AM
                            [**2194-11-5**]  03:42 AM
                            [**2194-11-5**]  08:42 AM
                            [**2194-11-5**]  11:07 AM
   WBC
   13.4
   Hct
   29.1
   29.7
   30.5
   29.2
   Plt
   25
   32
   31
   Cr
   2.9
   3.0
   TCO2
   12
   10
   10
   9
   11
   11
   Glucose
   132
   147
   Other labs: PT / PTT / INR:31.8/107.1/3.2, CK / CKMB /
   Troponin-T:148/6/0.05, ALT / AST:31/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:72/41, Differential-Neuts:96.5 %, Band:8.0 %,
   Lymph:2.3 %, Mono:1.0 %, Eos:0.1 %, Fibrinogen:647 mg/dL, Lactic
   Acid:1.3 mmol/L, LDH:450 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:7.1
   mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ACUTE PAIN
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   81 yo man with new diagnosis of HIV, C.Diff, LLE DVT, hypotension.  Now
   with worsening renal failure and acidosis, hypoxemia in setting of
   anuria.
   1. Hypotension/Septic shock: Cont vanc/cefepime.  No specific source
   identified other than known c. diff from osh.  No positive C. diff
   here.  Will increase steroids to stress dose.
   2. Hypoxemic Respiratory Failure: Will elect to intubate given
   declining respiratory status.  Have discussed with the son this morning
   who wants to pursue agressive measures for now
   3. C.Diff: po vanc/iv flagyl.
   4. LLE DVT: Cont aragatroban. PTT supratherapeutic.  HIT pending -
   platelets stable
   5. HIV: Off ARVs for now.  Start Bactrim ppx.
   6. Liver lesion: Wedge shaped - possible infarct but would be rare for
   liver.  Could also be some metastatic lesion.  RUQ ultrasound today
   7. Renal failure: Will need HD line to initiiate HD - needs reversal of
   coagulopathy/argatroban/platelets from line placement
   8. Anemia: Hct stable.
   Will continue to discuss goals of care with the family.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-11-1**] 11:36 PM
   Arterial Line - [**2194-11-2**] 12:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, aragtroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2194-11-06 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal Failure, Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated yesterday
   HD line placed by IR
   CRRT initiated
   Transfused with 2 units of platelet for drop to 10
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2194-11-5**] 12:00 PM
 INVASIVE VENTILATION - START [**2194-11-5**] 12:33 PM
 DIALYSIS CATHETER - START [**2194-11-5**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-11-4**] 10:00 AM
   Cefipime - [**2194-11-5**] 11:30 PM
   Metronidazole - [**2194-11-6**] 12:02 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Norepinephrine - 0.13 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2194-11-5**] 10:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-11-6**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 34.9
C (94.8
   HR: 52 (52 - 96) bpm
   BP: 110/() {0/() - 0/()} mmHg
   RR: 16 (11 - 55) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83 kg (admission): 79 kg
   Height: 68 Inch
   CVP: 8 (5 - 194)mmHg
   Total In:
                                                                  2,063 mL
                                                                  3,192 mL
   PO:
   TF:
   IVF:
                                                                  2,023 mL
                                                                  2,732 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                    262 mL
                                                                  3,259 mL
   Urine:
                                                                     52 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,801 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 573 (573 - 573) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/25/191/16/-7
   Ve: 8.1 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: No acute distress, intubated
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, +corneal
   relexes, perrla
   Labs / Radiology
   7.4 g/dL
   110 K/uL
   183 mg/dL
   2.4 mg/dL
   16 mEq/L
   4.2 mEq/L
   70 mg/dL
   101 mEq/L
   133 mEq/L
   22.6 %
   7.0 K/uL
        [image002.jpg]
                            [**2194-11-5**]  03:27 AM
                            [**2194-11-5**]  03:42 AM
                            [**2194-11-5**]  08:42 AM
                            [**2194-11-5**]  11:07 AM
                            [**2194-11-5**]  03:54 PM
                            [**2194-11-5**]  07:37 PM
                            [**2194-11-5**]  08:05 PM
                            [**2194-11-6**]  01:01 AM
                            [**2194-11-6**]  04:08 AM
                            [**2194-11-6**]  04:27 AM
   WBC
   13.4
   12.5
   7.6
   7.0
   Hct
   29.2
   27.7
   26.6
   22.6
   Plt
   31
   18
   11
   110
   Cr
   3.0
   3.2
   2.4
   TCO2
   9
   11
   11
   12
   13
   16
   Glucose
   147
   145
   183
   Other labs: PT / PTT / INR:26.9/88.4/2.6, CK / CKMB /
   Troponin-T:148/6/0.05, ALT / AST:31/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:72/41, Differential-Neuts:95.0 %, Band:8.0 %,
   Lymph:3.2 %, Mono:1.4 %, Eos:0.4 %, D-dimer:1312 ng/mL, Fibrinogen:546
   mg/dL, Lactic Acid:1.4 mmol/L, LDH:450 IU/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ACUTE PAIN
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   81 yo man with new diagnosis of HIV, C.Diff, LLE DVT, hypotension.  Now
   with worsening renal failure and acidosis, hypoxemia in setting of
   anuria.
   1. Hypotension/Septic shock: Cont vanc/cefepime.  Treat c. diff.
   Stress dose steroids.  Continues to require pressors.  Has emerging
   vesicular rash on LLE - will start acyclovir and discuss with ID
   2. Hypoxemic Respiratory Failure: Has RUL collapse on CXR today.  Will
   increase PEEP and plan for bronch this afternoon.  Pulmomary edema
   resolved on CXR with positive pressure ventilation.  Mental status poor
   - off of sedation, now waking more
   3. C.Diff: po vanc/iv flagyl.
   4. LLE DVT: HIT negative - argatroban changed to heparin
   5. HIV: Off ARVs for now.  Starting dapsone and azithro ppx.
   6. Liver lesion: RUQ ultrasound
   7. Renal failure: CRRT initiated
   8. Pancytopenia: All counts dropping.  Check DIC, hemolysis labs.  Ask
   renal to see him.  Has h/o of MDS by bone marrow biopsy.  Check cryo,
   complement, ANCA.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-11-1**] 11:36 PM
   Arterial Line - [**2194-11-2**] 12:56 AM
   Dialysis Catheter - [**2194-11-5**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with pt
s son and daughter today.  Discussed with them that Mr.
   [**Known lastname **] has multiple organ systems compromised and that his chance of
   recovery is very poor.  They understood and asked appropriate
   questions.  We will continue with current management with mechanical
   ventilation, CRRT, etc.  They have changed his code status to DNR.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2194-11-6**] 18:51 ------

2194-11-07 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output has stopped overnight.
   2L negative fluid balance
   24 Hour Events:
 BRONCHOSCOPY - At [**2194-11-6**] 02:19 PM - bronchoscopy showed
   non-obstructing RUL bood-tinged plug that was likely responsible for
   prior RUL collapse.
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy, Language
   barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-11-6**] 10:56 AM
   Cefipime - [**2194-11-7**] 03:49 AM
   Metronidazole - [**2194-11-7**] 08:04 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2194-11-6**] 04:10 PM
   Pantoprazole (Protonix) - [**2194-11-7**] 08:05 AM
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-11-7**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (54 - 104) bpm
   BP: 80/54(60) {80/54(60) - 85/56(63)} mmHg
   RR: 16 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 79 kg
   Height: 68 Inch
   CVP: 2 (1 - 9)mmHg
   Total In:
                                                                  6,093 mL
                                                                  2,186 mL
   PO:
   TF:
                                                                    129 mL
                                                                    712 mL
   IVF:
                                                                  5,089 mL
                                                                  1,363 mL
   Blood products:
                                                                    775 mL
   Total out:
                                                                  8,022 mL
                                                                  1,296 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,929 mL
                                                                    890 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 538 (538 - 538) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   Compliance: 150 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/31/194/21/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 485
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Rash: L lateral violaceous scalp lesion.  Weeping
   erythematous lesions from L medial thigh
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   49 K/uL
   194 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   33 mg/dL
   100 mEq/L
   133 mEq/L
   30.6 %
   2.2 K/uL
        [image002.jpg]
                            [**2194-11-6**]  09:41 AM
                            [**2194-11-6**]  09:58 AM
                            [**2194-11-6**]  03:24 PM
                            [**2194-11-6**]  03:43 PM
                            [**2194-11-6**]  06:33 PM
                            [**2194-11-6**]  09:57 PM
                            [**2194-11-6**]  10:16 PM
                            [**2194-11-7**]  02:30 AM
                            [**2194-11-7**]  03:34 AM
                            [**2194-11-7**]  03:47 AM
   WBC
   4.5
   2.2
   Hct
   26.7
   29.3
   30.6
   Plt
   67
   59
   49
   Cr
   1.9
   1.5
   1.3
   0.6
   TCO2
   20
   22
   23
   23
   21
   Glucose
   161
   123
   154
   194
   Other labs: PT / PTT / INR:21.6/68.3/2.0, CK / CKMB /
   Troponin-T:148/6/0.05, ALT / AST:24/28, Alk Phos / T Bili:149/6.2,
   Amylase / Lipase:72/41, Differential-Neuts:89.7 %, Band:0.0 %,
   Lymph:8.4 %, Mono:1.6 %, Eos:0.1 %, D-dimer:1312 ng/mL, Fibrinogen:546
   mg/dL, Lactic Acid:1.8 mmol/L, LDH:396 IU/L, Ca++:8.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ACUTE PAIN
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   81 yo man with new diagnosis of HIV, C.Diff, LLE DVT, hypotension.  Now
   with worsening renal failure and acidosis, hypoxemia in setting of
   anuria.
   1. Hypotension/Septic shock: vanc/cefepime.  Treating c. diff.  Taper
   stress dose steroids.  Pressor requirment going up in setting of CRRT
   2. Hypoxemic Respiratory Failure: S/P bronchoscopy yesterday - RUL
   collapse due to mucous plug.  Currently oxygenating well.
   3. C.Diff: po vanc/iv flagyl.
   4. LLE DVT: heparin gtt being held due to persistently high PTT
   5. HIV: Off ARVs for now.  dapsone and azithro ppx.
   6. Renal failure: Holding CRRT this AM given hemodynamic instability.
   Now anuric
   7. Pancytopenia: WBC continuing to trend down.  Appreciate hematology
   input.  Follow up DIC labs, ANCA, complemts, etc.
   Will meet with family today again to update them on lack of progress.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2194-11-7**] 07:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-11-1**] 11:36 PM
   Arterial Line - [**2194-11-2**] 12:56 AM
   Dialysis Catheter - [**2194-11-5**] 08:00 PM
   Prophylaxis:
   DVT: (holding heparin gtt given persistent elevation of PTT)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with the son and daughter of Mr. [**Known lastname **] this evening.  We discussed
   the lack of recovery of renal function and the multi system organ
   failure despite aggressive measures.  I told them that I felt his
   prognosis was very poor.  Given this, they have decided to switch his
   goals of care to comfort measures, and are planning to withdraw
   mechanical ventilation and pressors in the morning.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2194-11-7**] 19:40 ------